US07557123B2
2-[5-methyl-2-(trans-1-penten-1-yl)oxazol-4-yl]ethyl methanesulfonate
2-[5-Methyl-2-(1-penten-1-yl)oxazol-4-yl]ethanol (1.03 g) was dissolved in methylene chloride (10 ml), and triethylamine (1.03 ml) was added. Methanesulfonyl chloride (0.41 ml) was added dropwise at 0° C., and the mixture was stirred at room temperature for 30 min. Ethyl acetate (100 ml) was added, and the mixture was washed with 10% aqueous citric acid solution (100 ml) and then with saturated brine (100 ml), and dried (Na2SO4). The solvent was evaporated under reduced pressure to give the title compound (1.1 g).

reactant | 2-[5-Methyl-2-(1-penten-1-yl)oxazol-4-yl]ethanol | 1.03 g | CC1=C(N=C(O1)C=CCCC)CCO | C11H17NO2
reactant | triethylamine | 1.03 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.41 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-[5-methyl-2-(trans-1-penten-1-yl)oxazol-4-yl]ethyl methanesulfonate | 1.1 g | CS(=O)(=O)OCCC=1N=C(OC1C)\C=C\CCC | C12H19NO4S
